US07491716B2
1-(tert-butoxycarbonyl)-2,3-dihydro-6-fluoroindole
Add di-tert-butyl dicarbonate (12.35 g, 56.62 mmol) to a solution of 2,3-dihydro-6-fluoroindole (7.67 g, 56.06 mmol) in tetrahydrofuran (100 ml) and stir at room temperature over night. Concentrate the reaction mixture under reduced pressure to provide the desired compound as a white solid (13.2 g, 55.6 mmol).

reactant | di-tert-butyl dicarbonate | 56.62 mmol, 12.35 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,3-dihydro-6-fluoroindole | 56.06 mmol, 7.67 g | FC1=CC=C2CCNC2=C1 | C8H8FN
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-2,3-dihydro-6-fluoroindole | 55.6 mmol, 13.2 g | C(C)(C)(C)OC(=O)N1CCC2=CC=C(C=C12)F | C13H16FNO2
